US06534496B1
Using (1-acetyl-4-piperidinyl)acetic acid and 3-formyl-2,3,4,5-tetrahydro-1H-3-benzazepine as obtained in Reference Example 2, the procedure of Example 23-1) was similarly repeated to provide 2-(1-acetyl-4-piperidinyl)-1-(3-formyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1-ethanone as light-yellow oil.

reactant | (1-acetyl-4-piperidinyl)acetic acid | C(C)(=O)N1CCC(CC1)CC(=O)O | C9H15NO3
reactant | 3-formyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(=O)N1CCC2=C(CC1)C=CC=C2 | C11H13NO
product | 2-(1-acetyl-4-piperidinyl)-1-(3-formyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1-ethanone | C(C)(=O)N1CCC(CC1)CC(=O)C1=CC2=C(CCN(CC2)C=O)C=C1 | C20H26N2O3
